US07425631B2
Step A—Preparation of 4-hydroxyimino-1-methyl-2,2-dioxo-1,2,3,4-tetrahydro-2λ6-benzo[c][1,2]thiazine-7-carboxylic acid methyl ester
NaOAc (3.66 g, 44.5 mmol) was added to an EtOH (100 mL) solution of 1-methyl-2,2,4-trioxo-1,2,3,4-tetrahydro-2λ6-benzo[c][1,2]thiazine-7-carboxylic acid methyl ester (4.00 g, 14.8 mmol) and hydroxylamine hydrochloride (1.55 g, 22.3 mmol). After heating at reflux for 4 days, it was evaporated, diluted with CH2Cl2 (400 mL), washed with H2O, dried over MgSO4, filtered, and concentrated in vacuo. Crystallization from MeOH provided the title compound. MS (−APCI, m/z): 283 (M−H)−.

reactant | NaOAc | 44.5 mmol, 3.66 g | CC(=O)[O-].[Na+]
reactant | 1-methyl-2,2,4-trioxo-1,2,3,4-tetrahydro-2λ6-benzo[c][1,2]thiazine-7-carboxylic acid methyl ester | 14.8 mmol, 4.00 g | COC(=O)C=1C=CC2=C(N(S(CC2=O)(=O)=O)C)C1 | C11H11NO5S
reactant | hydroxylamine hydrochloride | 22.3 mmol, 1.55 g | Cl.NO
solvent | EtOH | 100 mL | CCO | C2H6O
product | 4-hydroxyimino-1-methyl-2,2-dioxo-1,2,3,4-tetrahydro-2λ6-benzo[c][1,2]thiazine-7-carboxylic acid methyl ester | COC(=O)C=1C=CC2=C(N(S(CC2=NO)(=O)=O)C)C1 | C11H12N2O5S
